datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])C)CCCCCC)C>>CCCCCCN([C:20]1(OC(C([O:21]1)C)CCCCCC)[O-:10])C 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(OCC)[O:21][H])[H]>>CCCCCCN([C:20](=[O:10])OCC)[H].[O-:21][H] 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([S]C)[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([S]C)[S][H] 10=20;20,21=21"
"[H][O:10]C(CC)C(CC)[O][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([O]CC)[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([O]CC)[S]C 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(CC)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[S]C.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[S]C 10=20;20,21=21"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[S][H] 10=20;20,21=21"
"C[O:10][H].CC[NH+:21]=[C:20]([NH]CC)[NH][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]CC)([NH]CC)[NH][H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](CC)[CH]([H])C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CC)C)[H])[H]>>CCN([C:20]1(OC(C(C([O:21]1)CC)C)[H])[O-:10])[H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])C)C>>[H]N([C:20]1(OC(C(C([O:21]1)CC)[H])C)[O-:10])C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(CC)C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(O)C([H])C([H])C(C)[O+:10]1([K])>>[O:10]([K])C(C)C([H])C([H])C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)[H])[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)[H])CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH]C(CC)C([H])[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C([H])[NH]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[S]C([H])C([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C([H])C([H])[S]2.C[O:10][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])[H])C1=CC=CC=C1)C>>CCCCCCN([C:20]1(OC(C([O:21]1)[H])C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"CCN([C:20](=[O:10])OCCCCCC)[H].[O-:21][H]>>CCN([C:20]([O-:10])(OCCCCCC)[O:21][H])[H] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CC>>CCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CC.[O-:21]CCCCCC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"C[O:10][CH:20]([I:21])CC>>C[O+:10]=[CH:20]CC.[I-:21] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C)C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(C)[O]1 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(C)[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"[NH:10]([H])C(CC)C([H])/C([H])=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C([H])C([H])C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"CCCCCCC1C(O[C:20](=[O:10])N1CCCCCC)CCCCCC.[O-:21]CCCCCC>>CCCCCCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CCCCCC 21=20;20,10=10"
"[H][O:10]C(CC)C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S]C)[S]C7=CC=CC=C7 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O]C(C)C(CC)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(CC)[NH]1 10=20;20,21=21"
